US05635527
Ethyl 5-cyano-3-hydroxy-2-benzofurancarboxylate (200 mg, 0.866 mmol), dimethyl sulfate (131 mg, 1.04 mmol) and potassium carbonate (132 mg, 0.953 mmol) were added to acetone (140 ml), and the mixture was refluxed under heating for 1.5 hours. Low boiling matters were distilled away from the reaction mixture under reduced pressure and water (200 ml) was added to the residue, which was followed by extraction with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure to give 193 mg of ethyl 5-cyano-3-methoxy-2-benzofurancarboxylate (91%). The obtained compound (170 mg, 0.694 mmol) was dissolved in methanol (5 ml) and potassium hydroxide (160 mg, 2.86 mmol) was added, which was followed by refluxing under heating for 45 minutes. Low boiling matters were distilled away from the reaction mixture under reduced pressure and IN hydrochloric acid was added to the residue to adjust the pH to 2-3. The resulting precipitate was collected by filtration to give 123 mg of 5-cyano-3-methoxy-2-benzofurancarboxylic acid as a colorless solid (82%).

reactant | Ethyl 5-cyano-3-hydroxy-2-benzofurancarboxylate | 0.866 mmol, 200 mg | C(#N)C=1C=CC2=C(C(=C(O2)C(=O)OCC)O)C1 | C12H9NO4
reactant | dimethyl sulfate | 1.04 mmol, 131 mg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 0.953 mmol, 132 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 140 ml | CC(=O)C | C3H6O
product | ethyl 5-cyano-3-methoxy-2-benzofurancarboxylate | 193 mg, 91% | C(#N)C=1C=CC2=C(C(=C(O2)C(=O)OCC)OC)C1 | C13H11NO4
